US07282512B2
To a solution of 0.5 g (2.01 mmol) of 2-{1-[(benzyloxy)methyl]cyclobutyl}ethanethioamide in 10 mL of acetonitrile was added 0.39 g (2.01 mmol) of phenacyl bromide and the contents stirred at room temperature for 3 h. The mixture was concentrated under vacuum and the residue was purified by silica gel chromatography using ethyl acetate:hexane (2:8) as the eluent to afford 0.68 g (97%) of 2-({1-[(benzyloxy)methyl]cyclobutyl}methyl)-4-phenyl-1,3-thiazole as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 8.02 (s, 1H), 7.96-7.30 (m, 5H), 4.60 (s, 2H), 3.50 (s, 2H), 3.35 (s, 2H), 2.13-1.95 (m, 6H).

reactant | 2-{1-[(benzyloxy)methyl]cyclobutyl}ethanethioamide | 2.01 mmol, 0.5 g | C(C1=CC=CC=C1)OCC1(CCC1)CC(N)=S | C14H19NOS
reactant | phenacyl bromide | 2.01 mmol, 0.39 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-({1-[(benzyloxy)methyl]cyclobutyl}methyl)-4-phenyl-1,3-thiazole | 0.68 g, 97% | C(C1=CC=CC=C1)OCC1(CCC1)CC=1SC=C(N1)C1=CC=CC=C1 | C22H23NOS
